US07704989B2
A suspension of 0.2 g of ethyl 6-aminoimidazo[1,2-a]pyridine-2-carboxylate (Heterocycles, 38(7), 1527 (1994)) in 1 ml of acetic anhydride is heated at reflux for 45 minutes. The reaction mixture is concentrated under reduced pressure; the residue is taken up in water and basified by addition of a 1N sodium hydroxide solution. The solid is filtered off and dried to give 150 mg of ethyl 6-acetamidoimidazo[1,2-a]pyridine-2-carboxylate in the form of an ecru solid.

reactant | ethyl 6-aminoimidazo[1,2-a]pyridine-2-carboxylate | 0.2 g | NC=1C=CC=2N(C1)C=C(N2)C(=O)OCC | C10H11N3O2
reactant | acetic anhydride | 1 ml | C(C)(=O)OC(C)=O | C4H6O3
product | ethyl 6-acetamidoimidazo[1,2-a]pyridine-2-carboxylate | 150 mg | C(C)(=O)NC=1C=CC=2N(C1)C=C(N2)C(=O)OCC | C12H13N3O3
